US04480100
(3-Fluorophenyl)[2-[(3-nitro-2-pyridinyl)amino]phenyl]methanone
Under nitrogen atmosphere, 45.0 g (0.209 mole) of 2-amino-3'-fluorobenzophenone was added in four portions at 15 min intervals to a stirred melt (120°-125° C.) of 38.2 g (0.241 mole) of 2-chloro-3-nitropyridine. The reaction mixture was heated at 120°-125° C. for one hr. and then at 145°-150° C. for 45 min. The mixture was cooled to 130° C. and 100 ml of toluene was added. The cooled mixture (room temperature) was diluted with 100 ml of ethyl acetate and extracted with 100 ml of 10% potassium hydroxide. The organic layer was extracted with three 100 ml portions of 3N hydrochloric acid, 100 ml of water and 50 ml of saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. The residue was crystallized from ethyl acetate-isopropyl ether to give 35.5 g (50%) solid. The solid was dissolved in 200 ml of methylene chloride and the solution stirred with 50 g of fluorisil for 2 hr. The mixture was filtered and the filtrate was concentrated in vacuo. A 5 g portion of the residue was recrystallized from ethyl acetate-isopropyl ether to give 4.1 g of yellow-orange solid, m.p. 98°-101° C.

reactant | 2-amino-3'-fluorobenzophenone | 0.209 mole, 45.0 g | NC1=C(C(=O)C2=CC(=CC=C2)F)C=CC=C1 | C13H10FNO
reactant | 2-chloro-3-nitropyridine | 0.241 mole, 38.2 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (3-Fluorophenyl)[2-[(3-nitro-2-pyridinyl)amino]phenyl]methanone | 35.5 g, 50% | FC=1C=C(C=CC1)C(=O)C1=C(C=CC=C1)NC1=NC=CC=C1[N+](=O)[O-] | C18H12FN3O3
